US06432880B1
Intermediate 1.6: 2,3-Dichloro-5-hydroxypyridine
At 0° C., a solution of 13 g of sodium hydroxide in 80 ml of water was added to 16 g of 5-acetyloxy-2,3-dichloropyridine in 100 ml of ice-water. The mixture was subsequently initially stirred at 0° C. for one hour and then at approximately 20° C. for 17 hours, and the reaction mixture was then washed with 150 ml of ethyl acetate. The mixture was acidified up to a pH of 4-5 by addition of acetic acid and then extracted three times with 100 ml of ethyl acetate each time. The combined organic phases were dried over magnesium sulfate and finally concentrated. Yield: 12.2 g.

reactant | sodium hydroxide | 13 g | [OH-].[Na+]
reactant | 5-acetyloxy-2,3-dichloropyridine | 16 g | C(C)(=O)OC=1C=C(C(=NC1)Cl)Cl | C7H5Cl2NO2
solvent | water | 80 ml | O | H2O
product | 2,3-Dichloro-5-hydroxypyridine | ClC1=NC=C(C=C1Cl)O | C5H3Cl2NO
